US06489440B1
To a solution of (S)-2-(9H-fluoren-9-ylmethoxycarbonyl-amino)succinic acid (150 mg, 0.36 mmol), BOP reagent (162 mg, 0.36 mmol) and HOBT hydrate (56 mg, 0.36 mmol) in N,N-dimethylformamide (0.2 ml) was added N,N-diisopropylethylamine (64 μl, 0.36 mmol). After being stirred for 30 min at room temperature, 1-aminoundecane (79 μl, 0.37 mmol) was added. The mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with water and extracted with Et2O. The combined extracts were washed with water, dried over anhydrous sodium sulfate, filtered and concentrated. Purification of the residue by silica gel column chromatography (using n-hexane:ethyl acetate =3:1 as an eluent ) gave (S)-3-(9H-fluoren-9-ylmethoxycarbonylamino)-N-undecylsuccinamic acid tert-butyl ester (169 mg, 82% yield) as a colorless amorphous solid.

reactant | (S)-2-(9H-fluoren-9-ylmethoxycarbonyl-amino)succinic acid | 0.36 mmol, 150 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC(=O)O | C19H17NO6
reactant | BOP reagent | 0.36 mmol, 162 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT hydrate | 0.36 mmol, 56 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | N,N-diisopropylethylamine | 0.36 mmol, 64 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-aminoundecane | 0.37 mmol, 79 μl | NCCCCCCCCCCC | C11H25N
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-(9H-fluoren-9-ylmethoxycarbonylamino)-N-undecylsuccinamic acid tert-butyl ester | 169 mg, 82% yield | C(C)(C)(C)OC(C[C@@H](C(=O)NCCCCCCCCCCC)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C34H48N2O5
